US06271236B1
(3,5-Dichloro-4-hydroxy-phenyl)-carbanic acid tert-butyl ester
To a solution of 2,6-dichloro-amino phenol (9.5 g) in tetrahydrofuran (130 mL) is added di-tert-butyl-dicarbonate (11.7 g) and the mixture is heated to reflux for approximately 15 hours. The solution is then cooled, concentrated under reduced pressure, diluted with ethyl acetate, and washed successively three times with 5% aqueous hydrochloric acid then once with saturated aqueous sodium chloride. The solution is dried over anhydrous sodium sulfate then concentrated under reduced pressure to provide the desired crude product. This material is then triturated with cold dichloromethane to provide the product as a white solid.

reactant | 2,6-dichloro-amino phenol | 9.5 g | ClC1=C(C(=CC=C1N)Cl)O | C6H5Cl2NO
reactant | di-tert-butyl-dicarbonate | 11.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | (3,5-Dichloro-4-hydroxy-phenyl)-carbanic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=CC(=C(C(=C1)Cl)O)Cl | C11H12Cl2O3
